US03983292
One hundred and sixty four grams of 2-tertiarybutyl-4-methylphenol is dissolved in 500 ml. of xylene. 23 g. of dried metal sodium is added therein and dissolved. The resulting product is a suspension of white powder in xylene. The product is placed in a porcelain ball mill having a capacity of 1000 ml., and milled for about 3 hours. The product is placed in an autoclave having a capacity of 1000 ml. and carbon dioxide gas pressure of 20kg/cm2 is blown therein at about 150°C. to effect a reaction for about 5 hours. By same treatments thereof as in Examples 2 and 4, 3-tertiary butyl-5-methylsalicylic acid is produced.

reactant | 2-tertiarybutyl-4-methylphenol | One hundred and sixty four grams | C(C)(C)(C)C1=C(C=CC(=C1)C)O | C11H16O
reactant | sodium | [Na] | Na
reactant | carbon dioxide | C(=O)=O | CO2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3-tertiary butyl-5-methylsalicylic acid | C(C)(C)(C)C1=C(C(C(=O)O)=CC(=C1)C)O | C12H16O3
